US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (48.8 mg, 0.115 mmol) and 2-Fluoro-4-{[(imidazole-1-carbonyl)-amino]-methyl}-benzoic acid methyl ester (183.3 mg, 0.764 mmol) in CH2Cl2 (8 mL) was stirred rt for 16 hrs. The reaction mixture was then purified by flash column to give 4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-methyl)-2-fluoro-benzoic acid methyl ester (64.5 mg, 88%).

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.115 mmol, 48.8 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 2-Fluoro-4-{[(imidazole-1-carbonyl)-amino]-methyl}-benzoic acid methyl ester | 0.764 mmol, 183.3 mg | COC(C1=C(C=C(C=C1)CNC(=O)N1C=NC=C1)F)=O | C13H12FN3O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-methyl)-2-fluoro-benzoic acid methyl ester | 64.5 mg, 88% | COC(C1=C(C=C(C=C1)CNC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)F)=O | C32H30Cl2F3N3O3
